US07723369B2
5-{4-[2-(4′-Amino-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (61 mg, 0.1 mmol) was treated subsequently according to general procedure K using 1-bromo-2-methylpropane (21 mg, 0.15 mmol) and general procedure U using isopropyl chloroformate (1M solution in toluene) (0.2 mL, 0.2 mmol) to give (4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-isobutyl-carbamic acid isopropyl ester.

reactant | 5-{4-[2-(4′-Amino-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 61 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C30H23Cl2N5O3S
reactant | 1-bromo-2-methylpropane | 0.15 mmol, 21 mg | BrCC(C)C | C4H9Br
reactant | isopropyl chloroformate | 0.2 mmol, 1M, 0.2 mL | ClC(=O)OC(C)C | C4H7ClO2
product | (4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-isobutyl-carbamic acid isopropyl ester | C(C)(C)OC(N(CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O)=O | C38H37Cl2N5O5S
